US07378448B2
Add dropwise via an addition funnel a solution of ethyl chloroformate (0.74 mL, 7.7 mmol) in tetrahydrofuran (7 mL) to a stirred solution of tyramine (1.0 g, 7.3 mmol), sodium hydroxide (0.7 g, 17.1 mmol), and water (7 mL). Stir at room temperature for 18 hours then pour the reaction into 1N aqueous hydrochloric acid so the pH=1-2. Extract with ethyl acetate (3×25 mL). Dry the combined ethyl acetate extracts over sodium chloride/magnesium sulfate, filter, and concentrate on a rotary evaporator to yield 1.3 g, 6.2 mmol of [2-(4-hydroxy-phenyl)-ethyl]-carbamic acid ethyl ester: 1H NMR (CDCl3, 300.00 MHz): 7.01 (d, 2H); 6.78 (d, 2H); 6.26 (s, 1H); 4.78 (s, 1H); 4.14-4.09 (m, 2H); 3.40-3.38 (m, 2H); 2.74-2.69 (m, 2H); 1.24-1.19 (m, 3H). Step 2 {2-[4-(4-Cyano-phenoxy)-phenyl]-ethyl}-carbamic acid ethyl ester

reactant | ethyl chloroformate | 7.7 mmol, 0.74 mL | ClC(=O)OCC | C3H5ClO2
reactant | tyramine | 7.3 mmol, 1.0 g | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | sodium hydroxide | 17.1 mmol, 0.7 g | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | water | 7 mL | O | H2O
product | [2-(4-hydroxy-phenyl)-ethyl]-carbamic acid ethyl ester | 6.2 mmol, 1.3 g | C(C)OC(NCCC1=CC=C(C=C1)O)=O | C11H15NO3
